US04814329
5-Benzyl-2-(2-propinylthio)-benzimidazole
6 g (25 mmoles) of 5-benzyl-benzimidazoline-2-thione, 2.3 ml of propargyl bromide and 40 ml of ethanol are refluxed for 3 hours. The reaction mixture is concentrated, the crystalline substance thus obtained is worked up according to the method of Example 2. The dichloromethane extract is concentrated and the residue is crystallized from 20 ml of toluene. 4.53 g (65.2%) of title product are obtained melting at a temperature of 109° C.

reactant | 5-benzyl-benzimidazoline-2-thione | 25 mmoles, 6 g | C(C1=CC=CC=C1)C1=CC2=C(NC(N2)=S)C=C1 | C14H12N2S
reactant | propargyl bromide | 2.3 ml | C(C#C)Br | C3H3Br
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-Benzyl-2-(2-propinylthio)-benzimidazole | 4.53 g, 65.2% | C(C1=CC=CC=C1)C1=CC2=C(N=C(N2)SCC#C)C=C1 | C17H14N2S
